*** Extracted spice netlist generated from MAX ***

.SUBCKT MMI_FFHB clk d hold q
C_1 net_1 gnd 2.4435fF
C_2 hold gnd 2.73067fF
C_3 vdd gnd 7.34738fF
C_4 d gnd 0.94288fF
C_5 net_3 gnd 2.50957fF
C_6 net_5 gnd 3.85831fF
C_7 clk gnd 4.43308fF
C_8 net_6 gnd 3.63373fF
C_9 net_7 gnd 5.75178fF
C_10 net_9 gnd 2.62749fF
C_11 net_10 gnd 3.53006fF
C_12 net_11 gnd 3.97846fF
C_13 q gnd 0.968858fF
C_14 gnd gnd 6.74435fF
Mp_1 net_1 hold vdd vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U AS=0.358842P 
+ PS=2.20347U
Mp_2 vdd hold net_2 vdd p W=1.84U L=0.18U AD=0.717684P PD=4.40693U 
+ AS=0.3588P PS=2.23U
Mp_3 net_2 d net_3 vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.57408P 
+ PS=3.024U
Mp_4 net_3 net_1 net_4 vdd p W=1.84U L=0.18U AD=0.57408P PD=3.024U 
+ AS=0.3588P PS=2.23U
Mp_5 net_4 net_5 vdd vdd p W=1.84U L=0.18U AD=0.3588P PD=2.23U AS=0.717684P 
+ PS=4.40693U
Mp_6 net_3 clk net_6 vdd p W=0.92U L=0.18U AD=0.28704P PD=1.512U 
+ AS=0.332024P PS=2.71881U
Mp_7 net_6 net_7 net_8 vdd p W=0.42U L=0.18U AD=0.151576P PD=1.24119U 
+ AS=0.0819P PS=0.81U
Mp_8 net_8 net_9 vdd vdd p W=0.42U L=0.18U AD=0.0819P PD=0.81U AS=0.163819P 
+ PS=1.00593U
Mp_9 vdd clk net_7 vdd p W=0.92U L=0.18U AD=0.358842P PD=2.20347U 
+ AS=0.4416P PS=2.8U
Mp_10 vdd net_6 net_9 vdd p W=0.92U L=0.18U AD=0.358842P PD=2.20347U 
+ AS=0.2484P PS=1.46U
Mp_11 net_9 net_7 net_10 vdd p W=0.92U L=0.18U AD=0.2484P PD=1.46U 
+ AS=0.4416P PS=3.15821U
Mp_12 net_5 net_11 vdd vdd p W=0.92U L=0.18U AD=0.4416P PD=2.8U 
+ AS=0.358842P PS=2.20347U
Mp_13 vdd net_10 net_11 vdd p W=0.92U L=0.18U AD=0.358842P PD=2.20347U 
+ AS=0.4416P PS=2.8U
Mp_14 net_10 clk net_12 vdd p W=0.42U L=0.18U AD=0.2016P PD=1.44179U 
+ AS=0.0861P PS=0.83U
Mp_15 net_12 net_11 vdd vdd p W=0.42U L=0.18U AD=0.0861P PD=0.83U 
+ AS=0.163819P PS=1.00593U
Mp_16 vdd net_11 q vdd p W=1.84U L=0.18U AD=0.717684P PD=4.40693U 
+ AS=0.8832P PS=4.64U
Mn_1 net_6 net_7 net_3 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U AS=0.20331P 
+ PS=1.03699U
Mn_2 net_10 net_7 net_13 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U 
+ AS=0.0819P PS=0.81U
Mn_3 net_13 net_11 gnd gnd n W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.155192P PS=1.36119U
Mn_4 gnd net_11 q gnd n W=0.92U L=0.18U AD=0.339945P PD=2.98165U AS=0.4416P 
+ PS=2.8U
Mn_5 net_1 hold gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.169972P 
+ PS=1.49083U
Mn_6 gnd net_1 net_14 gnd n W=0.92U L=0.18U AD=0.339945P PD=2.98165U 
+ AS=0.1794P PS=1.31U
Mn_7 net_14 d net_3 gnd n W=0.92U L=0.18U AD=0.1794P PD=1.31U AS=0.445345P 
+ PS=2.2715U
Mn_8 net_3 net_5 net_15 gnd n W=0.92U L=0.18U AD=0.445345P PD=2.2715U 
+ AS=0.1886P PS=1.33U
Mn_9 net_15 hold gnd gnd n W=0.92U L=0.18U AD=0.1886P PD=1.33U AS=0.339945P 
+ PS=2.98165U
Mn_10 net_7 clk gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U AS=0.169972P 
+ PS=1.49083U
Mn_11 net_6 clk net_16 gnd n W=0.42U L=0.18U AD=0.2016P PD=1.8U AS=0.0819P 
+ PS=0.81U
Mn_12 net_16 net_9 gnd gnd n W=0.42U L=0.18U AD=0.0819P PD=0.81U 
+ AS=0.155192P PS=1.36119U
Mn_13 gnd net_6 net_9 gnd n W=0.46U L=0.18U AD=0.169972P PD=1.49083U 
+ AS=0.137373P PS=1.58909U
Mn_14 net_9 clk net_10 gnd n W=0.42U L=0.18U AD=0.125427P PD=1.45091U 
+ AS=0.2016P PS=1.8U
Mn_15 net_5 net_11 gnd gnd n W=0.46U L=0.18U AD=0.2208P PD=1.88U 
+ AS=0.169972P PS=1.49083U
Mn_16 gnd net_10 net_11 gnd n W=0.62U L=0.18U AD=0.229093P PD=2.00937U 
+ AS=0.2976P PS=2.2U
.ENDS	$ MMI_FFHB

.GLOBAL gnd vdd

